* Z:\mnt\design.r\spice\examples\3526LB-2.asc
L1 IN N001 2.2µ Rpar=5K
V1 IN 0 1.2
R1 OUT N002 1.4Meg
R2 N002 0 1Meg
C1 OUT 0 4.7µ Rser=1m
Rload OUT 0 28.5
XU1 N001 0 IN IN N002 OUT LTC3526LB-2
.tran 500u startup
.lib LTC3526LB-2.sub
.backanno
.end
